US06617339B1
5-Ethoxycarbonylamino-2-(3-cyano-1-pyrrolyl)fluorobenzene
5-Amino-2-(3-cyano-1-pyrrolyl)fluorobenzene (4.6 g, 22.9 mmol) was stirred in dry pyridine (50 ml) 0°. Ethyl chloroformate (2.66 g, 24.5 mmol) was added, and stirring continued for 20 minutes at the same temperature before allowing the temperature to rise to ambient over 2 hours. Solvent was evaporated, the residue treated with iced water (50 ml), filtered off, and dried. Crystallisation of the crude product from ethanol (200 ml) gave the title product (4.9 g) mp 188-190°.

reactant | 5-Amino-2-(3-cyano-1-pyrrolyl)fluorobenzene | 22.9 mmol, 4.6 g | NC=1C=CC(=C(C1)F)N1C=C(C=C1)C#N | C11H8FN3
reactant | Ethyl chloroformate | 24.5 mmol, 2.66 g | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-Ethoxycarbonylamino-2-(3-cyano-1-pyrrolyl)fluorobenzene | 4.9 g | C(C)OC(=O)NC=1C=CC(=C(C1)F)N1C=C(C=C1)C#N | C14H12FN3O2
